US06730682B2
Ethyl 2-(((2-Ethoxy-2-oxoethyl)((4-methylphenyl)sulfonyl)amino)methyl)-5-iodonicotinate (P.3)
Ethyl 2-(bromomethyl)-5-iodonicotinate (Preparation 10, 9.25 g) and ethyl (((4-methylphenyl)sulfonyl)amino)acetate (7.0 g) are dissolved in anhydrous ethanol (50 mL) and a solution of sodium ethoxide (3.4 g) in ethanol (45 mL) is added over 15 min. The mixture is stirred overnight and then poured into ice water. The mixture is extracted with ethyl acetate (3×100 mL) and the organic layer is concentrated.

reactant | Ethyl 2-(bromomethyl)-5-iodonicotinate | 9.25 g | BrCC1=C(C(=O)OCC)C=C(C=N1)I | C9H9BrINO2
reactant | ethyl (((4-methylphenyl)sulfonyl)amino)acetate | 7.0 g | CC1=CC=C(C=C1)S(=O)(=O)NCC(=O)OCC | C11H15NO4S
reactant | sodium ethoxide | 3.4 g | [O-]CC.[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethanol | 45 mL | C(C)O | C2H6O
product | Ethyl 2-(((2-Ethoxy-2-oxoethyl)((4-methylphenyl)sulfonyl)amino)methyl)-5-iodonicotinate | C(C)OC(CN(S(=O)(=O)C1=CC=C(C=C1)C)CC1=C(C(=O)OCC)C=C(C=N1)I)=O | C20H23IN2O6S
